US07186729B2
4-(2-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidin-4-ol
To a solution of the 4-(2-chloro-phenyl)-piperidin-4-ol (0.210 g, 1.0 mmol) in isopropanol was added 2,6-lutidine (0.31 mL, 2.7 mmol) and catalytic potassium iodide. This mixture was heated to 80° C., and treated with 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.287 g, 0.77 mmol), added in portions over 1 h. The solution was then stirred at 80° C. for an additional 14 h. The reaction was concentrated in vacuo, then purified by Isco flash chromatography (15% methanol/85% methylene chloride) to yield the title compound (0.200 g, 52%). 1H-NMR (CDCl3): δ 1.55 (s, 6H), 1.70 (d, 2H), 2.10–2.30 (m, 2H), 2.36–2.54 (m, 2H), 2.57–2.92 (m, 6H), 5.30 (bs, 2H), 6.16 (t, 1H), 6.77 (d, 1H), 7.16–7.36 (m, 5H), 7.48 (s, 2H), 7.58 (d, 1H), 8.37 (dd, 1H). ESI-MS m/z: 505 (M+1), retention time 1.48.

reactant | 4-(2-chloro-phenyl)-piperidin-4-ol | 1.0 mmol, 0.210 g | ClC1=C(C=CC=C1)C1(CCNCC1)O | C11H14ClNO
reactant | 2,6-lutidine | 2.7 mmol, 0.31 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | potassium iodide | [I-].[K+]
reactant | 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.77 mmol, 0.287 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(2-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidin-4-ol | 0.200 g, 52% | ClC1=C(C=CC=C1)C1(CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)O | C30H33ClN2O3
